US07973051B2
To a slurry of sodium hydride (0.932 g, 23.0 mmol) in DMF (30 mL) was added indole (2.52 g, 21 mmol) portionwise at 10-20° C. over 5 minutes. The reaction mixture was stirred at rt for 1.5 h, and 2-iodoethylmethylether (4.8 g, 26 mmol) in DMF (10 mL) was added over 5 minutes. The mixture was stirred at rt for 2 h, quenched with ice/water, and extracted with tert-butylmethylether. The organics were washed, dried, and concentrated. The residue was chromatographed on silica gel using heptane/ethyl acetate as eluent to obtain 1-(2-methoxy-ethyl)-1H-indole (3.40 g) as a yellowish liquid. MS (ISP): m/e 176.4 (M+H)+

reactant | sodium hydride | 23.0 mmol, 0.932 g | [H-].[Na+]
reactant | indole | 21 mmol, 2.52 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 2-iodoethylmethylether | 26 mmol, 4.8 g | ICCOC | C3H7IO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(2-methoxy-ethyl)-1H-indole | 3.40 g | COCCN1C=CC2=CC=CC=C12 | C11H13NO
